US04046908
A. 4-[(2,2-dichlorocyclopropyl)methyl]thio-2-nitroaniline
To a stirred mixture of 11.75 g (0.06 mole) of 2-nitro-4-thiocyanoaniline in 500 ml of absolute ethanol under N2 there is added 2.5 g (0.06 mole) of sodium borohydride in portions. The mixture is stirred at room temperature for 15 minutes and then refluxed for 15 minutes. The heating mantle is removed and 3.9 g (0.06 mole) of KOH in 30 ml of absolute ethanol is added. The mixture is stirred for 1 minute. A solution of 12.25 g (0.06 mole) of 1-bromomethyl-2,2-dichlorocyclopropane in 30 ml of absolute ethanol is added and the mixture is stirred at room temperature for 15 minutes and then refluxed for 2 hours. Equal amounts of H2O and CHCl3 are added until 2 layers are formed. The organic layer is separated, dried (MgSO4), and the solvent removed in vacuo to give a red oil which is chromatographed on silica gel. Elution with ethyl ether gives 9.6 g of red oil.

reactant | 2-nitro-4-thiocyanoaniline | 0.06 mole, 11.75 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | sodium borohydride | 0.06 mole, 2.5 g | [BH4-].[Na+]
reactant | KOH | 0.06 mole, 3.9 g | [OH-].[K+]
reactant | 1-bromomethyl-2,2-dichlorocyclopropane | 0.06 mole, 12.25 g | BrCC1C(C1)(Cl)Cl | C4H5BrCl2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | 4-[(2,2-dichlorocyclopropyl)methyl]thio-2-nitroaniline | 9.6 g | ClC1(C(C1)CSC1=CC(=C(N)C=C1)[N+](=O)[O-])Cl | C10H10Cl2N2O2S
